US04831043
STEP A: 3-(3-isocyanato-4-methoxyphenyl)-1-trifluoroacetyl-piperidine
6.04 g of 3-(3-amino-4-methoxyphenyl)-1-trifluoroacetyl piperidine in 120 ml of dioxane and 2.9 ml of trichloromethyl chloroformate were mixed together and stirred for 4 hours at 80° C. Then, the mixture was evaporated to dryness under reduced pressure. The residue was chromatographed on silica and eluted with a mixture of cyclohexane and ethyl acetate (7-3) to obtain 6.4 g of crude product which was used as is for the following step.

reactant | 3-(3-amino-4-methoxyphenyl)-1-trifluoroacetyl piperidine | 6.04 g | NC=1C=C(C=CC1OC)C1CN(CCC1)C(C(F)(F)F)=O | C14H17F3N2O2
reactant | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | trichloromethyl chloroformate | 2.9 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
product | 3-(3-isocyanato-4-methoxyphenyl)-1-trifluoroacetyl-piperidine | 6.4 g | N(=C=O)C=1C=C(C=CC1OC)C1CN(CCC1)C(C(F)(F)F)=O | C15H15F3N2O3
